US08071592B2
(a) Phenylmethyl {[(3S,4S)-4-hydroxy-3-piperidinyl]methyl}carbamate
To a flask containing 1,1-dimethylethyl (3R,4S)-4-hydroxy-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-piperidinecarboxylate (for a preparation see Example 135(e)) (1 g; 2.74 mmol) was added 100 mL of TFA/DCM (50%). The reaction mixture was stirred for 1 h and then concentrated. The crude product was made basic by the addition of 6N NaOH and extracted into 10% MeOH/DCM (2×50 mL). The organic fractions were dried with anhydrous sodium sulfate, filtered and concentrated to obtain the product as a clear oil (607 mg; 84%).

reactant | 1,1-dimethylethyl (3R,4S)-4-hydroxy-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-piperidinecarboxylate | O[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CNC(=O)OCC1=CC=CC=C1 | C19H28N2O5
solvent | TFA DCM | 100 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Phenylmethyl {[(3S,4S)-4-hydroxy-3-piperidinyl]methyl}carbamate | 607 mg, 84% | O[C@@H]1[C@@H](CNCC1)CNC(OCC1=CC=CC=C1)=O | C14H20N2O3
